US03937673
A solution is formed by mixing 128.6 grams of trimellitic acid anhydride and 257.5 grams of p,p' diphenyl methane diisocyanate and 109.0 grams of acetophenone by heating the mixture. At approximately 135°C. a clear homogeneous solution is obtained. Once clarity is obtained 48.0 grams of adipic acid are added slowly. The temperature of the mixture is raised to approximately 180°C. and slow reflux is maintained. After approximately 60 minutes, a yellow viscous resin is obtained and 530.5 grams of cresylic acid and 530.5 grams of phenol, previously mixed, (1061.0 grams in total) are added to quench and stop the reaction. The solution is maintained at 135°C. until all the resin is dissolved. The resultant solution is cooled to room temperature and filtered. The viscosity of the product at 25°C. was measured at about 3000 cps, utilizing a Brookfield viscometer, and a resin solution of approximately 25% weight resin.

reactant | trimellitic acid anhydride | 128.6 grams | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
reactant | acetophenone | 109.0 grams | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | adipic acid | 48.0 grams | C(CCCCC(=O)O)(=O)O | C6H10O4
